US04303660
A mixture of 20.8 g (0.1 mole) of 4-chloro-3-nitroquinoline, 40 ml of benzene and 40 ml of hydrazine hydrate is refluxed for 2 hours, then cooled. The separated phase containing hydrazine hydrate is diluted with 150 ml of water. Yellow-white crystals separate. Thus, 16.8 g (83%) of 5-(o-aminophenyl)-4-nitropyrazole are obtained. M.p.: 175°-176° C. (ethanol).

reactant | 4-chloro-3-nitroquinoline | 0.1 mole, 20.8 g | ClC1=C(C=NC2=CC=CC=C12)[N+](=O)[O-] | C9H5ClN2O2
reactant | benzene | 40 ml | C1=CC=CC=C1 | C6H6
reactant | hydrazine hydrate | 40 ml | O.NN
solvent | water | 150 ml | O | H2O
product | 5-(o-aminophenyl)-4-nitropyrazole | 16.8 g, 83% | NC1=C(C=CC=C1)C1=C(C=NN1)[N+](=O)[O-] | C9H8N4O2
